US07632851B2
(4Benzo[1,2,5]oxadiazol-5-yl-phenyl)-methyl-amine
510 mg (1.57 eq.) (4-benzo[1,2,5]oxadiazol-5-yl-phenyl)-methyl-carbamic acid tert-butyl ester are dissolved in 10 mL dichloromethane, treated with 0.126 mL (1.05 eq.) trifluoroacetic acid and stirred overnight at room temperature. The reaction mixture is evaporated and the residue column chromatographed (hexane, hexane/ethyl acetate 4:1 then 3:1) to yield the desired product as an orange solid. MS(ES+): 226 (M+1).

reactant | (4-benzo[1,2,5]oxadiazol-5-yl-phenyl)-methyl-carbamic acid tert-butyl ester | 510 mg, 1.57 eq. | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)C=1C=CC=2C(=NON2)C1)=O | C18H19N3O3
reactant | trifluoroacetic acid | 0.126 mL, 1.05 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4Benzo[1,2,5]oxadiazol-5-yl-phenyl)-methyl-amine | N1=C2C(=NO1)C=C(C=C2)C2=CC=C(C=C2)NC | C13H11N3O
